US07101886B2
Starting with 4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenylamine hydrochloride (0.60 g, 1.702 mmol) and 3,3-dimethyl-acryloyl chloride (0.189 mL, 1.702 mmol) and following the procedure outlined in Example 512, 3-methyl-but-2-enoic acid{4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenyl]amide (0.553 g, 1.261 mmol) was obtained. Yield=75%. 100% purity at 254 nM; LCMS (APCI): 435.3 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ 9.05 (s, 1H), 8.00 (d, J=8.42 Hz, 2H), 7.50 (t, J=7.47 Hz, 1H), 7.38 (t, J=7.47 Hz, 1H), 7.26 (d, J=7.47 Hz, 1H), 7.02 (s, 1H), 6.97 (d, J=7.47 Hz, 1H), 5.90 (s, 1H), 3.44–3.36 (m, 4H), 3.30 (s, H2O), 2.71–2.58 (m, 6H), 2.57–2.49 (m, 2H), 2.45 (p, DMSO), 2.11 (s, 3H), 2.07 (s, 3H), 1.80 (s, 3H).

reactant | 4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenylamine hydrochloride | 1.702 mmol, 0.60 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)N)C
reactant | 3,3-dimethyl-acryloyl chloride | 1.702 mmol, 0.189 mL | CC(=CC(=O)Cl)C | C5H7ClO
product | 3-methyl-but-2-enoic acid{4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenyl]amide | 1.261 mmol, 0.553 g, Yield=75% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)NC(C=C(C)C)=O)C | C25H30N4OS
